US06780855B2
A solution of 1.77 g of 11β-fluoro-7α-[5-(methyl-amino)-pentyl]-estra-1,3,5(10)-triene-3,17β-diol in 18 ml of dimethylformamide is stirred with 1.4 g of 8,8,9,9,9-pentafluoro-nonyltosylate for 1 hour at a bath temperature of 80° C. Then, it is added to water, extracted three times with ethyl acetate, washed with water and common salt solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with dichloromethane/methanol. 11β-Fluoro-7α-{5-[methyl-(8,8,9,9,9-pentafluoro-nonyl)-amino]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol is obtained as crystals with a melting point of 110° C.

reactant | 11β-fluoro-7α-[5-(methyl-amino)-pentyl]-estra-1,3,5(10)-triene-3,17β-diol | 1.77 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCNC)O | C24H36FNO2
reactant | 8,8,9,9,9-pentafluoro-nonyltosylate | 1.4 g | FC(CCCCCCCC1=C(S(=O)(=O)[O-])C=CC(=C1)C)(C(F)(F)F)F
reactant | water | O | H2O
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 11β-Fluoro-7α-{5-[methyl-(8,8,9,9,9-pentafluoro-nonyl)-amino]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN(CCCCCCCC(C(F)(F)F)(F)F)C)O | C33H49F6NO2
